US06455566B1
1-(5-Chloro-2-methyl-phenyl)-3-(1H-pyrazol-3-yl)-thiourea
Prepared using Method A from 5.5 g (30.1 mmol) of 5-chloro-2-methyl-phenyl isothiocyanate and 2.5 g (30.1 mmol) of 3-amino-1H-pyrazole to give 5.3 g of tite compound as a white solid (66% yield, m.p. 221-222° C.).

reactant | 5-chloro-2-methyl-phenyl isothiocyanate | 30.1 mmol, 5.5 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 3-amino-1H-pyrazole | 30.1 mmol, 2.5 g | NC1=NNC=C1 | C3H5N3
product | 1-(5-Chloro-2-methyl-phenyl)-3-(1H-pyrazol-3-yl)-thiourea | 5.3 g, 66% yield | ClC=1C=CC(=C(C1)NC(=S)NC1=NNC=C1)C | C11H11ClN4S
